US05026724
A mixture of 5-hydroxy-6-methoxy-benzo[b]thiophene-2-carbonitrile (10.30 g) and anhydrous potassium carbonate (7.63 g) was treated with a solution of dry dimethylformamide (110 ml) which has been previously saturated with chlorodifluoromethane gas. The mixture was then sealed in an autoclave, stirred, and heated to 40° C. After 3 days the reaction mixture was cooled and poured into water (700 ml). The resultant precipitate was iiltered off, dried, and extracted with hot dichloromethane (300 ml). The organic extract was concentrated then poured through a column of fine silica (200 g). The appropiate fractions were combined and evaporated to dryness to give 5-difluoromethyloxy-6-methoxy-benzo[b]thiophene-2-carbonitrile as an off-white solid (5.49 g), m.p. 99°-101° C.

reactant | 5-hydroxy-6-methoxy-benzo[b]thiophene-2-carbonitrile | 10.30 g | OC1=CC2=C(SC(=C2)C#N)C=C1OC | C10H7NO2S
reactant | potassium carbonate | 7.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | water | 700 ml | O | H2O
product | 5-difluoromethyloxy-6-methoxy-benzo[b]thiophene-2-carbonitrile | 5.49 g | FC(OC1=CC2=C(SC(=C2)C#N)C=C1OC)F | C11H7F2NO2S
